US09382226B2
A stirred solution of 2-bromo-5-(methylamino)-4-nitrobenzonitrile (0.3 g, 0.001 mol) in EtOH (10 ml) was hydrogenated using Pd/C for 2 h at room temperature. The reaction was filtered through CELITE® and the filter bed was thoroughly washed with EtOH. The resulting solution was concentrated to provide 4-amino-2-bromo-5-(methylamino)benzonitrile, as a brownish a solid. Crude LCMS (M+1): 226.12. Purity: 63%.

reactant | 2-bromo-5-(methylamino)-4-nitrobenzonitrile | 0.001 mol, 0.3 g | BrC1=C(C#N)C=C(C(=C1)[N+](=O)[O-])NC | C8H6BrN3O2
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-amino-2-bromo-5-(methylamino)benzonitrile | NC1=CC(=C(C#N)C=C1NC)Br | C8H8BrN3
